US04511573
3-(4-Cyanobutyl)-2-(3-pyridyl)-indole (540 mg) is heated at 185° for 0.5 hour with 450 mg of powdered NaOH and 5 ml of ethylene glycol; the reaction solution is diluted with 50 ml water, washed with ether, and adjusted to pH 6 with 2N HCl, to give 3-(4-carboxybutyl)-2-(3-pyridyl)indole.

reactant | 3-(4-Cyanobutyl)-2-(3-pyridyl)-indole | 540 mg | C(#N)CCCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C18H17N3
reactant | NaOH | 450 mg | [OH-].[Na+]
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
solvent | water | 50 ml | O | H2O
product | 3-(4-carboxybutyl)-2-(3-pyridyl)indole | C(=O)(O)CCCCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
